US06506758B2
Description 14: 2-(5,6-Dichloro-1H-indol-2-yl)benzoic acid
Starting from trans-4,5-dichloro-2-nitro-β-dimethylaminostyrene and 2-(methoxycarbonyl)benzoyl chloride and following successively the procedures of Descriptions 2, 3 and 4 afforded the title compound as a light brown solid which was used without further purification in the next step.

reactant | trans-4,5-dichloro-2-nitro-β-dimethylaminostyrene | ClC1=CC(=C(/C=C/N(C)C)C=C1Cl)[N+](=O)[O-] | C10H10Cl2N2O2
reactant | 2-(methoxycarbonyl)benzoyl chloride | COC(=O)C1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
product | 2-(5,6-Dichloro-1H-indol-2-yl)benzoic acid | ClC=1C=C2C=C(NC2=CC1Cl)C1=C(C(=O)O)C=CC=C1 | C15H9Cl2NO2
